US05521179
A 25 mL flask was charged with 2-(3-amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide (0.301 g) dissolved in freshly distilled tetrahydrofuran (6 mL) under nitrogen. Triethylamine (0.09 mL) was added, followed by phenylacetyl chloride (0.08 mL). The cloudy, yellowish solution was stirred overnight; diluted with ethyl acetate (50 mL); washed with 10% hydrochloric acid (three times), saturated aqueous sodium bicarbonate (three times) and brine; dried; and evaporated to give an oil which solidified under vacuum. The soft solid was purified by chromatography, eluting with ethyl acetate:dichloromethane (3:97), to afford N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)-2-(2-oxo-6-phenyl-3-phenylacetylamino-1,2-dihydro-1-pyridyl)acetamide (0.272 g); TLC: Rf =0.54, methanol:dichloromethane (1:99); MS: m/z=630(M+1).

reactant | 2-(3-amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | 0.301 g | NC=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)=O | C25H36F3N3O3Si
reactant | Triethylamine | 0.09 mL | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | 0.08 mL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)-2-(2-oxo-6-phenyl-3-phenylacetylamino-1,2-dihydro-1-pyridyl)acetamide | 0.272 g | [Si](C)(C)(C(C)(C)C)OC(C(C(C)C)NC(CN1C(C(=CC=C1C1=CC=CC=C1)NC(CC1=CC=CC=C1)=O)=O)=O)C(F)(F)F | C33H42F3N3O4Si
